US06603046B1
1.040 g (5 mmol) of chalcone was dissolved in 15 ml of ethanol and to the solution was added 2 ml of 25% hydrogen peroxide and 2 ml of an aqueous solution of 1 M sodium carbonate. The precipitate which was formed after stirring for 3 h was isolated and recrystallized from DMSO-water to give 250 mg (22%) of chalcone epoxide.

reactant | chalcone | 5 mmol, 1.040 g | C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O
reactant | hydrogen peroxide | 2 ml | OO | H2O2
reactant | sodium carbonate | 1 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | chalcone epoxide | 250 mg, 22% | C1=CC=C(C=C1)C2C(O2)C(=O)C3=CC=CC=C3 | C15H12O2
